US06992087B2
Preparation of racemic mixture of 5-(2,4-dichlorophenyl)-N-[(cis)-2-ethoxy-1,2,3,4-tetrahydronaphthalen-1-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (cis)-2-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl]pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.14, 1.20, 1.29, 1.95, 2.31, 2.45, 2.73, 2.82, 3.12, 3.48, 3.74, 3.99, 5.42, 5.75, 7.12-7.21, 7.36, 7.51; HRMS (FAB) calcd for C25H27Cl2N3O+H 456.1609, found 456.1617.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | pyrazin-2-amine | N1=C(C=NC=C1)N | C4H5N3
product | 5-(2,4-dichlorophenyl)-N-[(cis)-2-ethoxy-1,2,3,4-tetrahydronaphthalen-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CCC2=CC=CC=C12)OCC)CC | C26H29Cl2N3O
